US05166204
In 4.5 ml of N,N-dimethylformamide was dissolved 450 mg of N-(2-hydroxyethyl)-6-methoxycarbazole-3,4-dicarboximide. Thereto were added 1.06 g of carbon tetrabromide and 840 mg of triphenylphosphine. The mixture was stirred at room temperature for 2 hours. The solvent was removed by distillation under reduced pressure. The residue was mixed with 50 ml of water and 50 ml of ethyl acetate. The mixture was stirred at room temperature for 10 minutes. The resulting insoluble material was removed by filtration. The organic layer was separated from the filtrate, washed with an aqueous saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from n-propanol to obtain 230 mg (yield: 42%) of N-(2-bromoethyl)-6-methoxycarbazole-3,4-dicarboximide as yellow crystals.

reactant | N-(2-hydroxyethyl)-6-methoxycarbazole-3,4-dicarboximide | 450 mg | OCCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)OC | C17H14N2O4
reactant | carbon tetrabromide | 1.06 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 840 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-dimethylformamide | 4.5 ml | CN(C=O)C | C3H7NO
product | N-(2-bromoethyl)-6-methoxycarbazole-3,4-dicarboximide | 230 mg, yield: 42% | BrCCN1C(=O)C=2C=CC=3NC4=CC=C(C=C4C3C2C1=O)OC | C17H13BrN2O3
